US07402704B2
To 2-(4-(2,5-dichlorothiazol-4-ylthio)phenyl)-1,1,1-trifluoropropan-2-ol (0.040 g, 0.098 mmol) in DMF (0.20 mL) was added 2-methylpyrolidine (0.022 mL, 0.22 mmol). The reaction was stirred for 2 h then poured into water (2 mL). The precipitate was filtered and purified by silica gel chromatography (elution with 30% ethyl acetate in hexanes) to provide 0.033 g of 2-(4-(5-chloro-2-(2-methylpyrrolidin-1-yl)thiazol-4-ylsulfonyl)phenyl)-1,1,1-trifluoropropan-2-ol. 1H NMR (400 MHz, CDCl3): δ 1.19 (d, J=6 Hz, 3H), 1.65-1.75 (m, 1H), 1.83 (s, 3H), 1.90-2.25 (m, 3H), 3.26-3.33 (m 1H), 3.40-3.45 (m, 1H), 3.90-3.96 (m, 1H), 7.78 (d, J=8 Hz, 2H), 8.11 (d, J=8 Hz, 2H).

reactant | 2-(4-(2,5-dichlorothiazol-4-ylthio)phenyl)-1,1,1-trifluoropropan-2-ol | 0.098 mmol, 0.040 g | ClC=1SC(=C(N1)SC1=CC=C(C=C1)C(C(F)(F)F)(C)O)Cl | C12H8Cl2F3NOS2
reactant | 2-methylpyrolidine | 0.22 mmol, 0.022 mL | CC1NCCC1 | C5H11N
reactant | water | 2 mL | O | H2O
reactant | DMF | 0.20 mL | CN(C)C=O | C3H7NO
product | 2-(4-(5-chloro-2-(2-methylpyrrolidin-1-yl)thiazol-4-ylsulfonyl)phenyl)-1,1,1-trifluoropropan-2-ol | 0.033 g | ClC1=C(N=C(S1)N1C(CCC1)C)S(=O)(=O)C1=CC=C(C=C1)C(C(F)(F)F)(C)O | C17H18ClF3N2O3S2
